US04736055
α-(4-Carboxybenzenesulfonyloxyimino)benzyl cyanide
In the temperature range from -10° C. to 0° C. and with stirring, a solution of 7.55 g of p-chlorosulfonylbenzoic acid in 25 g of tetrahydrofuran is slowly added to a solution of 5 g of α-hydroxyiminobenzyl cyanide in 24 g of tetrahydrofuran. The reaction mixture is heated, with stirring, to room temperature. After 2 hours, the reaction mixture is poured into 600 ml of 0.12N hydrochloric acid. The precipitated product is isolated by filtration, washed with water and dried at 40° C. in vacuo. Melting point: 250°-251° C.

reactant | p-chlorosulfonylbenzoic acid | 7.55 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | α-hydroxyiminobenzyl cyanide | 5 g | ON=C(C1=CC=CC=C1)C#N | C8H6N2O
reactant | hydrochloric acid | 0.12N, 600 ml | Cl | ClH
solvent | tetrahydrofuran | 25 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 24 g | O1CCCC1 | C4H8O
product | α-(4-Carboxybenzenesulfonyloxyimino)benzyl cyanide | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)ON=C(C1=CC=CC=C1)C#N | C15H10N2O5S
